US08563582B2
tert-Butyl[(1S,3R)-3-Ethyl-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate
To a solution of (1R,3S)-3-[(tert-butoxycarbonyl)amino]-1-ethylcyclopentanecarboxylic acid (0.30 g, 1.2 mmol) and 1-[4-(trifluoromethyl)pyridin-2-yl]piperazine dihydrochloride (0.39 g, 1.3 mmol) in DMF (10 mL) under N2 was added triethylamine (0.65 mL, 4.7 mmol) and O-(Benzotriazol-1-yl)-N,N,N′,N-tetramethyluronium hexafluorophosphate (0.663 g, 1.75 mmol). After being stirred at room temperature overnight, the reaction was quenched with saturated NaHCO3 and extracted with methylene chloride three times. The combined extracts were dried (MgSO4), filtered, concentrated and purified by flash column chromatography to yield the desired product (400 mg, 72.9%). MS calculated for C23H34F3N4O3: (M+H) 471.3; found 371.2 (M+H-Boc).

reactant | (1R,3S)-3-[(tert-butoxycarbonyl)amino]-1-ethylcyclopentanecarboxylic acid | 1.2 mmol, 0.30 g | C(C)(C)(C)OC(=O)N[C@@H]1C[C@@](CC1)(C(=O)O)CC | C13H23NO4
reactant | 1-[4-(trifluoromethyl)pyridin-2-yl]piperazine dihydrochloride | 1.3 mmol, 0.39 g | Cl.Cl.FC(C1=CC(=NC=C1)N1CCNCC1)(F)F
reactant | triethylamine | 4.7 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-Butyl[(1S,3R)-3-Ethyl-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 400 mg, 72.9% | C(C)(C)(C)OC(N[C@@H]1C[C@@](CC1)(C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F)CC)=O | C23H33F3N4O3
